US06194410B1
In an analogous manner to that described in Example 3, from 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl) -pyrazolo[1,5-a]pyrimidine and methylamine in EtOH there was obtained methyl-[5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine as colorless crystals, m.p. >230°.

reactant | 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl) -pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)C)SC)C | C15H14ClN3O2S2
reactant | methylamine | CN | CH5N
solvent | EtOH | CCO | C2H6O
product | methyl-[5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine | CNC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)C)SC)C | C16H18N4O2S2
